US06472543B2
In 80 g of dry tetrahydrofuran was dissolved 10.0 g of 3-bromopropionic acid. In a nitrogen atmosphere, 85.0 g of a hexane solution of 1.6M n-butyllithium was added to the solution at −78° C., followed by 30 minutes of stirring. Then a solution of 8.92 g 2-(5-norbornen-2-yl)acetaldehyde in 20 g hexamethylphosphoric triamide was added dropwise to the solution at the same temperature. With stirring, the temperature of the solution was gradually raised to 20° C. over 2 hours. Next, 80 g of 5% hydrochloric acid was added to the solution, which was stirred for one hour for lactonization. The organic layer was separated, washed with aqueous saturated sodium bicarbonate solution, washed with water, and concentrated in vacuum. Purification by silica gel column chromatography yielded 8.17 g (yield 65%) of γ-(5-norbornen-2-yl)methyl-γ-butyrolactone. The analytical properties of this compound were substantially identical with the data of Synthesis Example 1.

reactant | 3-bromopropionic acid | 10.0 g | BrCCC(=O)O | C3H5BrO2
reactant | n-butyllithium | 1.6M | C(CCC)[Li]
reactant | 2-(5-norbornen-2-yl)acetaldehyde | 8.92 g | C12C(CC(C=C1)C2)CC=O | C9H12O
reactant | hydrochloric acid | 80 g | Cl | ClH
solvent | tetrahydrofuran | 80 g | O1CCCC1 | C4H8O
solvent | hexamethylphosphoric triamide | 20 g | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | hexane | 85.0 g | CCCCCC | C6H14
product | γ-(5-norbornen-2-yl)methyl-γ-butyrolactone | 8.17 g, yield 65% | C12C(CC(C=C1)C2)CC2CCC(=O)O2 | C12H16O2
